US05260262
To a solution of 3-bromothiophene (4 g 24.5 mmol) in dry THF (80 mL) cooled to -70° C. was added dropwise 2.5M n-BuLi in hexane (11 mL, 27.5 mmol). The mixture was stirred for one-half h. A solution of methyl 2-(difluoromethyl)-5-formyl-4-(2-methylpropyl)-6-(trifluoromethyl)-3-pyridinecarboxylate (6.6 g, 19.5 mmol) in anhydrous THF (20 mL) was added dropwise and stirring was continued for I h while the temperature was maintained at -70° C. The mixture was allowed to warm to RT and then poured into iced water, acidified with conc. HCl and extracted with methylene chloride. The extract was washed with water and brine, dried (MgSO4), and conc. The residue was purified by chromatography with 10% ethyl acetate/cyclohexane to yield 5.6 g of methyl 2-(difluoromethyl)-5-(hydroxy-3-thienylmethyl)-4-(2-methylpropyl)-6-(trifluoromethyl)-3-pyridinecarboxylate, a 68.9% yield.

reactant | 3-bromothiophene | 24.5 mmol, 4 g | BrC1=CSC=C1 | C4H3BrS
reactant | n-BuLi | 2.5M | [Li]CCCC
reactant | hexane | 27.5 mmol, 11 mL | CCCCCC | C6H14
reactant | methyl 2-(difluoromethyl)-5-formyl-4-(2-methylpropyl)-6-(trifluoromethyl)-3-pyridinecarboxylate | 19.5 mmol, 6.6 g | FC(C1=NC(=C(C(=C1C(=O)OC)CC(C)C)C=O)C(F)(F)F)F | C14H14F5NO3
reactant | HCl | Cl | ClH
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | methyl 2-(difluoromethyl)-5-(hydroxy-3-thienylmethyl)-4-(2-methylpropyl)-6-(trifluoromethyl)-3-pyridinecarboxylate | 5.6 g, 68.9% yield | FC(C1=NC(=C(C(=C1C(=O)OC)CC(C)C)C(C1=CSC=C1)O)C(F)(F)F)F | C18H18F5NO3S
